US07087622B2
Step C: 3-Amino-5-bromopyridin-2-ol
A mixture of 5-bromo-3-nitropyridin-2-ol (1.26 g, 4.6 mmol) and tin chloride dihydrate (3.91 g, 17.3 mmol) in ethyl acetate (19.3 mL) was heated at 50° C. for 20 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (100 mL) and washed with brine. The aqueous layer was separated and extracted with ethyl acetate (5×50 mL). The combined organic layers were dried with sodium sulfate, filtered and concentrated in vacuo to give a black solid 580 mg (53%), which was used without further purification.

reactant | 5-bromo-3-nitropyridin-2-ol | 4.6 mmol, 1.26 g | BrC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3BrN2O3
reactant | tin chloride dihydrate | 17.3 mmol, 3.91 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethyl acetate | 19.3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-Amino-5-bromopyridin-2-ol | 580 mg, 53% | NC=1C(=NC=C(C1)Br)O | C5H5BrN2O
